US03953499
F. 1-Chloro-14-methyl-nonadeca-7,10-diyn-13-ene
To 21 ml. of 3M ethereal methyl magnesium bromide in 47.5 ml. of dry tetrahydrofuran under nitrogen was added 9.2 g. of 1-chloro-7-octyne in 15 ml. of tetrahydrofuran. The mixture was heated under reflux for 30 min., then was allowed to cool to room temperature during another 30 minutes after which 365 mg. of cuprous chloride was added. The mixture was heated under reflux for 20 min., then a solution of 14 g. of 1-bromo-6-methyl-undec-2-yn-5-ene in 12.9 ml. of tetrahydrofuran was added. The mixture was heated under reflux for 10 hrs. then cooled in an ice bath and 250 ml. saturated aqueous ammonium chloride was added. Ether was added and the mixture was filtered through Celite (diatomaceous earth filter ald) and separated. The thus obtained ether layer was washed with saturated aqueous sodium chloride, dried with magnesium sulfate, and evaporated. The thus obtained residue was distilled through a rocking short-path distillation apparatus, collecting 11.5 g. of a mixture comprising 1-chloro-14-methylnonadeca-7,10-dlyn-13-ene at a bath temperature of 180°-190°/0.005 mm.

reactant | methyl magnesium bromide | 3M | C[Mg]Br
reactant | 1-chloro-7-octyne | ClCCCCCCC#C | C8H13Cl
reactant | 1-bromo-6-methyl-undec-2-yn-5-ene | BrCC#CCC=C(CCCCC)C | C12H19Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Chloro-14-methyl-nonadeca-7,10-diyn-13-ene | ClCCCCCCC#CCC#CCC=C(CCCCC)C | C20H31Cl
